US08686149B2
(1H-Benzoimidazol-5-yl)-(cis-7-hydroxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone
Boron tribromide (1 mol/L in dichloromethane, 0.5 mL) is added to a solution of (1H-benzo-imidazol-5-yl)-(cis-7-methoxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone (60 mg) in dichloromethane (5 mL) at room temperature. The resulting solution is stirred at room temperature for 2 h. Aqueous half-saturated NaHCO3 solution is added and the resulting neutral mixture is extracted with dichloromethane and dichloromethane/methanol (95:5). The combined extracts are washed with brine and dried (Na2SO4). The solvent is evaporated and the residue is triturated with diethyl ether and dried to give the title compound as a colorless solid. Yield: 30 mg (52% of theory); TLC: rf=0.45 (silica gel, CH2Cl2/MeOH/32% aqueous NH3 90:10:1); Mass spectrum (ESI+): m/z=348 [M+H]+.

reactant | Boron tribromide | 1 mol/L, 0.5 mL | B(Br)(Br)Br | BBr3
reactant | (1H-benzo-imidazol-5-yl)-(cis-7-methoxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone | 60 mg | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C(=CC=C3)OC | C22H23N3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (1H-Benzoimidazol-5-yl)-(cis-7-hydroxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C(=CC=C3)O | C21H21N3O2
